US07074819B2
Step 1) synthesis of (3RS,4RS)-4-[9-(N-cyano)aminononyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman
To a solution of (3RS,4RS)-4-[9-iodononyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman (381 mg, 0.69 mmol) in anhydrous dimethylformamide (2 ml) were added potassium carbonate (238 mg, 1.72 mmol) and cyanoamide (116 mg, 2.76 mmol), which was then stirred for 4 h at 50° C. Water was added thereto, and the resulting solution was extracted with ethyl acetate. Then, the organic layer was washed with water and saturated sodium chloride solution. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (n-hexane:ethyl acetate=3:1) to give the title compound (238 mg, yield 74%) as a colourless oil.

reactant | (3RS,4RS)-4-[9-iodononyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | 0.69 mmol, 381 mg | ICCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C27H37IO2S
reactant | potassium carbonate | 1.72 mmol, 238 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyanoamide | 2.76 mmol, 116 mg | C(#N)[NH-]
reactant | Water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (3RS,4RS)-4-[9-(N-cyano)aminononyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | 238 mg, yield 74% | C(#N)NCCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C28H38N2O2S
